US04053606
2-Methyl-5-acetoxymethylpyridine-N-oxide (0.05 mole) is refluxed in 50 ml. of acetic anhydride for two hours and then evaporated to dryness. The residue is fractionally distilled under high vacuum to obtain 2,5-di(acetoxymethyl)pyridine.

reactant | 2-Methyl-5-acetoxymethylpyridine-N-oxide | 0.05 mole | CC1=[N+](C=C(C=C1)COC(C)=O)[O-] | C9H11NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2,5-di(acetoxymethyl)pyridine | C(C)(=O)OCC1=NC=C(C=C1)COC(C)=O | C11H13NO4
